US07968720B2
(rac.)-(1R*,5S*)-3-{4-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene-2-carboxylic Acid Methyl Ester (C1)
1-[2-(4-Bromo-phenoxy)-ethoxy]-2,6-dichloro-4-methyl-benzene (10.5 g, 28.0 mmol) was dissolved in THF (90 mL), and the sol. was cooled to −78° C. BuLi (1.6M in hexane, 18.2 mL, 29.1 mmol) was added, and the sol. was stirred at −78° C. for 1 h. ZnCl2 (1M in THF, 30.8 mL, 30.8 mmol) was added, and the mixture was allowed to warm to rt. A sol. of (rac.)-(1R*,5S*)-8-methyl-3-trifluoromethanesulfonyloxy-8-aza-bicyclo[3.2.1]oct-2-ene-2-carboxylic acid methyl ester (WO 2004/096799; 4.60 g, 14.0 mmol) in THF (10 mL), and then Pd(PPh3)4 (324 mg, 0.280 mmol) were added. The mixture was heated rapidly to 55° C., and stirred at this temperature for 30 min. The mixture was cooled to 0° C., and EtOAc (250 mL) was added. This mixture was washed with cold aq. 1M NaOH (1×), and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (MeOH/CH2Cl2 5:95) yielded the title compound (5.77 g, 87%). LC-MS: tR=0.86 min; ES+: 476.26.

reactant | 1-[2-(4-Bromo-phenoxy)-ethoxy]-2,6-dichloro-4-methyl-benzene | 28.0 mmol, 10.5 g | BrC1=CC=C(OCCOC2=C(C=C(C=C2Cl)C)Cl)C=C1 | C15H13BrCl2O2
reactant | BuLi | 29.1 mmol, 1.6M, 18.2 mL | [Li]CCCC
reactant | (rac.)-(1R*,5S*)-8-methyl-3-trifluoromethanesulfonyloxy-8-aza-bicyclo[3.2.1]oct-2-ene-2-carboxylic acid methyl ester | 14.0 mmol, 4.60 g | COC(=O)C=1[C@H]2CC[C@@H](CC1OS(=O)(=O)C(F)(F)F)N2C | C11H14F3NO5S
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 30.8 mmol, 1M, 30.8 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.280 mmol, 324 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (rac.)-(1R*,5S*)-3-{4-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene-2-carboxylic Acid Methyl Ester | 5.77 g, 87% | COC(=O)C=1[C@H]2CC[C@@H](CC1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)N2C | C25H27Cl2NO4
